US05432177
Bis(2-chloroethyl)amine hydrochloride (3.60 g, 20.2 mmol) was added to a suspension of 5-aminoindole (2.53 g, 19.1 mmol) in ethanol (30 ml) and the mixture heated at reflux for 16 h. The mixture was allowed to cool, sodium carbonate (2.14 g, 20.2 mmol) was added and the reaction mixture heated at reflux for 8 h. The mixture was allowed to cool, filtered and the filtrate evaporated. The residue was dissolved in 1M hydrochloric acid (100 ml) and extracted with dichloromethane (2×50 ml). The aqueous phase was made basic with 4M sodium hydroxide (30 ml) and extracted with ethyl acetate (2×100ml). The extracts were washed with brine (100 ml), combined and dried (MgSO4). The residue from evaporation of the extracts was purified by flash chromatography, eluting with dichloromethane/methanol/ammonia, to give 1-(5-indolyl)piperazine (0.71 g, 18%), as a cream solid; δH (DMSO-d6) 2.94 (4H, m, 2×piperzinyl CH2), 3.00 (4H, m, 2×piperazinyl CH2), 6.29 (1H, m, 3-H), 6.84 (1H, dd, J 9.0,2.0 Hz, 6-H), 7.00 (1H, d, J 2.0 Hz, 2-H), 7.24 (2H, m, 4-H, 7-H), and 10.82 (1H, br s, NH).

reactant | Bis(2-chloroethyl)amine hydrochloride | 20.2 mmol, 3.60 g | Cl.ClCCNCCCl
reactant | 5-aminoindole | 19.1 mmol, 2.53 g | NC=1C=C2C=CNC2=CC1 | C8H8N2
reactant | sodium carbonate | 20.2 mmol, 2.14 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 1-(5-indolyl)piperazine | 0.71 g, 18% | N1C=CC2=CC(=CC=C12)N1CCNCC1 | C12H15N3
